US08530480B2
To a 0° C. solution of 1-(3-(2-chloropyrimidin-4-yl)phenyl)piperidin-4-one (200 mg, 0.7 mmol) in methanol (5 mL) was added NaBH4 (53 mg, 1.4 mmol). The reaction mixture was warmed to room temperature and monitored by TLC analysis. When the starting material had been consumed, the reaction was quenched with water and diluted with EtOAc. The layers were separated, and the organics were dried (MgSO4) and concentrated to give 1-(3-(2-chloropyrimidin-4-yl)phenyl)piperidin-4-ol.

reactant | 1-(3-(2-chloropyrimidin-4-yl)phenyl)piperidin-4-one | 0.7 mmol, 200 mg | ClC1=NC=CC(=N1)C=1C=C(C=CC1)N1CCC(CC1)=O | C15H14ClN3O
reactant | NaBH4 | 1.4 mmol, 53 mg | [BH4-].[Na+]
solvent | methanol | 5 mL | CO | CH4O
product | 1-(3-(2-chloropyrimidin-4-yl)phenyl)piperidin-4-ol | ClC1=NC=CC(=N1)C=1C=C(C=CC1)N1CCC(CC1)O | C15H16ClN3O
